US07557114B2
(b) (3-Hydroxymethyl-6-trifluoromethyl-pyridin-2-yl)-methanol
A solution of 6 mmol 6-trifluoromethyl-pyridine-2,3-dicarboxylic acid dimethyl ester in 10 ml methanol was cooled to 0° C. 12 mmol of sodium borohydride and 6 mmol of calcium chloride were added and the resulting mixture stirred overnight at room temperature. After cooling again to 0° the reaction mixture was neutralized by addition of 5 ml 3M aqueous hydrochloric acid. The mixture is concentrated, diluted with water and extracted 3 times with ethyl acetate. The crude compound is purified by chromatography (SiO2; ethyl acetate/n-heptane 1:1) to give the title compound as a yellow oil. Yield: 72%. MS (m/e): 208.1 (MH+, 100%).

reactant | 6-trifluoromethyl-pyridine-2,3-dicarboxylic acid dimethyl ester | 6 mmol | COC(=O)C1=NC(=CC=C1C(=O)OC)C(F)(F)F | C10H8F3NO4
reactant | sodium borohydride | 12 mmol | [BH4-].[Na+]
reactant | calcium chloride | 6 mmol | [Cl-].[Ca+2].[Cl-]
reactant | hydrochloric acid | 3M, 5 ml | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
product | (3-Hydroxymethyl-6-trifluoromethyl-pyridin-2-yl)-methanol | Yield: 72% | OCC=1C(=NC(=CC1)C(F)(F)F)CO | C8H8F3NO2
